US05106859
A solution of 10.5 g of ethyl 6-hydroxymethylnicotinate in chloroform (100 ml) was cooled to 0° C., and 8.28 g of thionyl chloride was added dropwise to the solution. The mixture was stirred at 0° C. for 2 hours, an aqueous solution of sodium hydrogencarbonate was added, and the mixture was extracted with dichloromethane. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexene/ethyl acetate=6/1) to obtain 10.52 g of ethyl 6-chloromethylnicotinate.

reactant | ethyl 6-hydroxymethylnicotinate | 10.5 g | OCC1=NC=C(C(=O)OCC)C=C1 | C9H11NO3
reactant | thionyl chloride | 8.28 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 6-chloromethylnicotinate | 10.52 g | ClCC1=NC=C(C(=O)OCC)C=C1 | C9H10ClNO2
